US07473784B2
To a solution of 2-(2-fluorophenyl)-1,3-dithiane (2.72 g, 12.7 mmol, 4.4 eq.) in THF (65 mL) under nitrogen at 0° C. was added n-BuLi (1.6M/hexane; 7.4 mL, 11.8 mmol, 4.1 eq.) over 0.5 hr. After another 0.5 hr, the 0° C. bath was removed and replaced by a −78° C. bath. 5-(Chloromethyl)-N-isopropylthiazolo[5,4-b]pyridin-2-amine dihydrochloride (0.90 g, 2.86 mmol, 1.0 eq.) was added in portions after 15 min., and the reaction was stirred for 1.5 hr. Ice, EtOAc and saturated aqueous NaHCO3 were added, and the −78° C. bath was removed. After stirring to room temperature, the layers were separated, and the organic layer was dried over Na2SO4, filtered, and concentrated in vacuo. Silica gel chromatography using CH2Cl2 followed by CH2Cl2:MeOH (40:1) as eluent afforded 5-((2-(2-fluorophenyl)-1,3-dithian-2-yl)methyl)-N-isopropylthiazolo[5,4-b]pyridin-2-amine as a yellow solid (0.95 g, 79% yield).

reactant | 2-(2-fluorophenyl)-1,3-dithiane | 12.7 mmol, 2.72 g, 4.4 eq. | FC1=C(C=CC=C1)C1SCCCS1 | C10H11FS2
reactant | n-BuLi | 11.8 mmol, 1.6M, 7.4 mL, 4.1 eq. | [Li]CCCC
reactant | 5-(Chloromethyl)-N-isopropylthiazolo[5,4-b]pyridin-2-amine dihydrochloride | 2.86 mmol, 0.90 g, 1.0 eq. | Cl.Cl.ClCC1=CC=C2C(=N1)SC(=N2)NC(C)C
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 65 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 5-((2-(2-fluorophenyl)-1,3-dithian-2-yl)methyl)-N-isopropylthiazolo[5,4-b]pyridin-2-amine | 0.95 g, 79% yield | FC1=C(C=CC=C1)C1(SCCCS1)CC1=CC=C2C(=N1)SC(=N2)NC(C)C | C20H22FN3S3
